US06515011B2
To a stirred solution of trans-3-ethyl-D,L-proline (1.61 g, 11.2 mmol) from the previous step in H2O (11.3 mL), 1 N NaOH (12.4 mL), and dioxane (22.5 mL) at 0° C. was added Boc anhydride (2.70 g, 12.4 mmol) in portions. The reaction was allowed to warm to room temperature and stirred for 72 h. The solvent was removed in vacuo. The residue was taken up in H2O and acidified to pH 2 using 1 N HCl. The aqueous layer was extracted with EtOAc. The organic layer was washed with brine, dried (Na2SO4), and concentrated to give 1-(tert-butoxycarbonyl)-3-ethyl-D,L-proline as a brown solid. LCMS (M+H)=244.6; LCMS RT=1.64 min. 1H NMR (CD3OD, 400 MHz): δ 4.25-4.14 (m, 1H), 3.87-3.78 (m, 1H), 3.61-3.49 (m, 1H), 3.43-3.38 (m, 1H), 2.16-2.01 (m, 2H), 1.38 (s, 9H), 1.02-0.92 (m, 3H).

reactant | trans-3-ethyl-D,L-proline | 11.2 mmol, 1.61 g | C(C)[C@H]1[C@@H](NCC1)C(=O)O | C7H13NO2
reactant | NaOH | 1 N, 12.4 mL | [OH-].[Na+]
reactant | dioxane | 22.5 mL | O1CCOCC1 | C4H8O2
reactant | Boc anhydride | 12.4 mmol, 2.70 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | H2O | 11.3 mL | O | H2O
product | 1-(tert-butoxycarbonyl)-3-ethyl-D,L-proline | C(C)(C)(C)OC(=O)N1C(C(=O)O)C(CC1)CC | C12H21NO4
